US07375115B2
2-[2-[1-(2-Benzyloxyethyl)cyclohexyl]ethyl]propane-1,3-diol
To a solution of dimethyl 2-[2-[1-(2-benzyloxyethyl)-cyclohexyl]ethyl]malonate (1.03 g) in diethyl ether (40 mL) was added lithium aluminum hydride (207 mg) under ice cooling. After stirring the solution under ice cooling for 2 hours, water (0.2 mL) and a 15% aqueous sodium hydroxide solution (0.2 mL) were successively added to the solution. The solution was stirred at room temperature for 15 minutes, water (0.6 mL) was added thereto, and it was stirred for additional 30 minutes. The solution was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=2:3) to give the title compound (320 mg)

reactant | dimethyl 2-[2-[1-(2-benzyloxyethyl)-cyclohexyl]ethyl]malonate | 1.03 g | C(C1=CC=CC=C1)OCCC1(CCCCC1)CCC(C(=O)OC)C(=O)OC | C22H32O5
reactant | lithium aluminum hydride | 207 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.2 mL | O | H2O
reactant | sodium hydroxide | 0.2 mL | [OH-].[Na+]
reactant | water | 0.6 mL | O | H2O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 2-[2-[1-(2-Benzyloxyethyl)cyclohexyl]ethyl]propane-1,3-diol | 320 mg | C(C1=CC=CC=C1)OCCC1(CCCCC1)CCC(CO)CO | C20H32O3
